US07579351B2
8-Hydroxy-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The solution of 10.1 g (21.8 mmol) 1-(2-tert-butoxycarbonylamino-ethyl)-5-(tert-butyl-dimethyl-silanyloxy)-1H-indole-2-carboxylic acid ethyl ester in 100 mL dichloromethane was cooled to 0° C. and 50.1 mL (74.7 g, 0.65 mol) trifluoroacetic acid were added dropwise within 5 min. The cooling bath was removed and after 1.5 hours the volatile components were removed at a rotary evaporator. The residue was dissolved in methanol and 12.1 g (87.5 mmol) potassium carbonate was added under cooling. The suspension was stirred for 64 hours at room temperature and then diluted with water. The solution was extracted three times with ethyl acetate and the combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The brown residue (5.3 g) was taken up in 20 mL tetrahydrofuran, the suspension was cooled to 0° C. and 21.8 mL (21.8 mmol; 1M solution in tetrahydrofuran) tetra-n-butylammonium fluoride solution was added. The cooling bath was removed and after 1 h stirring at room temperature the suspension was diluted with ethyl acetate and 10% aqueous ammonium chloride solution. Filtration gave a first batch of the product. The mother liquor was extracted six times with ethyl acetate. The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered and partially evaporated. The formed suspension was filtered and the filter cake was washed with ethyl acetate to give a second batch of compound, in total 1.9 g (43%) of a light brown solid.

reactant | 1-(2-tert-butoxycarbonylamino-ethyl)-5-(tert-butyl-dimethyl-silanyloxy)-1H-indole-2-carboxylic acid ethyl ester | 21.8 mmol, 10.1 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)O[Si](C)(C)C(C)(C)C)CCNC(=O)OC(C)(C)C | C24H38N2O5Si
reactant | trifluoroacetic acid | 0.65 mol, 50.1 mL, 74.7 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | 87.5 mmol, 12.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetra-n-butylammonium fluoride | 21.8 mmol, 1M, 21.8 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 8-Hydroxy-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | OC1=CC=2C=C3N(C2C=C1)CCNC3=O | C11H10N2O2
